US05389447
c. Preparation of α-methyl-α-neopentyl-β-propiolactone
The resultant 2-methyl-2-neopentyl-3-hydroxypropionic acid (2.) was then reacted conventionally with methyl orthopropionate, followed by slow heating in the presence of Amberlyst® 15, then worked up to obtained the desired final product.

reactant | 2-methyl-2-neopentyl-3-hydroxypropionic acid | CC(C(=O)O)(CO)CC(C)(C)C | C9H18O3
reactant | methyl orthopropionate | C(CC)(OC)([O-])[O-]
product | α-methyl-α-neopentyl-β-propiolactone | CC1(C(=O)OC1)CC(C)(C)C | C9H16O2
